US05089487
11-Hydroxy-3-(1-hydroxy-3-methylbutyl)-4-methoxy-9-methyl-8-nitro-7H-dibenzo[b,g][1,5]dioxocin-5-one
150 mg (0.4 mmol) of penicillide are dissolved in 15 ml of methylene chloride and stirred for 1 h under inert gas at a bath temperature of -68° C. after addition of 0.8 ml of a 0.5 molar solution of nitronium tetrafluoroborate. The reaction mixture is added to ice. After extraction with methylene chloride, washing with water and bicarbonate, drying and evaporating, the residue is chromatographed on silica gel in petroleum ether:ether=1:1. After evaporating, 86 mg (51% of theory) of yellowish solid are obtained.

reactant | penicillide | 0.4 mmol, 150 mg | CC1=CC2=C(C(=C1)O)OC3=CC=C(C(=C3C(=O)OC2)OC)[C@H](CC(C)C)O | C21H24O6
reactant | nitronium tetrafluoroborate | F[B-](F)(F)F.O=[N+]=O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 11-Hydroxy-3-(1-hydroxy-3-methylbutyl)-4-methoxy-9-methyl-8-nitro-7H-dibenzo[b,g][1,5]dioxocin-5-one | OC1=CC(=C(C=2COC(C3=C(OC21)C=CC(=C3OC)C(CC(C)C)O)=O)[N+](=O)[O-])C | C21H23NO8
